Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
lactose
 
Attending: ___.
 
Chief Complaint:
involuntary movements
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Pt developed involuntary twitching movements in the hands at 2
pm ___. This is similar to the prior three episodes starting
___ which last between 12 and 24 hours. She was uncomfortable
and concerned and called the ___ for advice; while on
the phone, her speech apparently became slurred and she began to
reportedly have convulsive movements. The patient was lowered to
the floor and EMS was called. The patient was transferred here
for further evaluation. Per report, the patient has had ___
episodes of prolonged involuntary movements lasting ___ hours,
with intermittent twitching at other times.

She had presented with same complaint ___ to ED and is
undergoing work up with endocrinology, and has neurology follow
up arranged. She underwent an EEG recently at BIN with 
suggestion
of further outpatient monitoring.

Her involuntary movements persisted in the ED and she felt 
unsafe
going home.

In the ED, initial VS were: 98.6 ___ 22 100% RA 
Exam notable for: 3 or 4 movements and involuntary vocalizations
Labs showed: negative lactate, WBC 12.9, negative serum and 
urine
tox, nl UA, lfts wnl
Imaging showed: none
Consults: Neurology recommended outpatient work up for acquired
chorea as arranged, to stop using Ativan as was not felt to be
seizure activity
Patient received: Lorazepam 1 mg po x2
Transfer VS were: 85 112/66 16 98% RA 

On arrival to the floor, she is hopeful that the movements will
stop soon. She otherwise is in no pain and feels well.

REVIEW OF SYSTEMS: 10 point ROS reviewed and negative except as
per HPI

 
Past Medical History:
OBSESSIVE-COMPULSIVE DISORDER 
ANXIETY 
BULEMIA 
OBESITY 
POST-TRAUMATIC STRESS DISORDER 
PANIC DISORDER 
ASTHMA 
CONVULSIONS 
OSA
 
Social History:
___
Family History:
maternal great grandmother with ALS
 
Physical Exam:
ADMISSION PHYSCIAL EXAM
========================
VS: 98.3 PO 167 / 83 83 18 99 RA 
GENERAL: NAD
HEENT: AT/NC, anicteric sclera, MMM
CV: RRR
PULM: CTAB, no wheezes, rales, rhonchi
GI: abdomen soft, nondistended, nontender 
EXTREMITIES: no cyanosis, clubbing, or edema
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric. large amplitude choreiform movements of arms, face,
trunk, with disruptions in speech during onset of movements
DERM: warm and well perfused, no excoriations or lesions, no
rashes

DISCHARGE PHYSICAL EXAM
========================
VS: ___ 0726 Temp: 97.5 PO BP: 135/65 HR: 80 RR: 18 O2 sat:
98% O2 delivery: Ra 
GENERAL: NAD, sitting up in bed, intermittent uncontrolled
movements/spasms
HEENT: AT/NC, anicteric sclera, MMM
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema
NEURO: Alert, intermittent uncontrolled movements of bilateral
upper extremities, torso, and neck
DERM: Warm and well perfused, no excoriations or lesions, no
rashes

 
Pertinent Results:
ADMISSION LABS
===============
___ 07:52PM BLOOD WBC-12.9* RBC-4.58* Hgb-13.3* Hct-38.4* 
MCV-84 MCH-29.0 MCHC-34.6 RDW-13.1 RDWSD-39.9 Plt ___
___ 07:52PM BLOOD Neuts-65.0 ___ Monos-8.3 Eos-1.4 
Baso-0.9 Im ___ AbsNeut-8.37* AbsLymp-3.07 AbsMono-1.07* 
AbsEos-0.18 AbsBaso-0.12*
___ 07:52PM BLOOD Plt ___
___ 07:52PM BLOOD Glucose-87 UreaN-11 Creat-0.6 Na-140 
K-4.3 Cl-102 HCO3-22 AnGap-16
___ 07:52PM BLOOD ALT-17 AST-21 AlkPhos-82 TotBili-0.4
___ 07:52PM BLOOD Albumin-4.5 Calcium-10.0 Phos-4.7* Mg-2.0
___ 07:52PM BLOOD VitB12-176*
___ 07:52PM BLOOD TSH-2.1
___ 03:02AM BLOOD PTH-31
___ 07:52PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 08:07PM BLOOD Lactate-1.1

OTHER PERTINANT LABS
===============
___ 03:02AM BLOOD ___-31

DISCHARGE LABS
===============
___ 07:25AM BLOOD WBC-6.8 RBC-4.67 Hgb-13.3* Hct-39.9* 
MCV-85 MCH-28.5 MCHC-33.3 RDW-13.2 RDWSD-40.7 Plt ___
___ 07:25AM BLOOD Plt ___

PENDING LABS
=============
MMA, Anti-DNAse, Anti-Streptolysin

IMAGING
=========
Video EEG Final Read Pending

 
Brief Hospital Course:
___ transwoman who presents for evaluation of
involuntary movements. 

ACTIVE ISSUES
==============
#Functional Movement Disorder
Pt has had 3 episodes of movements felt to be most concerning 
for functional movement disorder by neurology. On admission 
initial thinking was acquired chorea and a laboratory workup for 
metabolic causes of this was started. Her CBC was unrevealing 
for infection, electrolytes, LFTs, and kidney function, PTH, and 
TSH were normal. A urine tox screen neg. She was found to have a 
low B12 at 176 and was given 1000mcg IM in the hospital. 
Neurology felt that their clinical evaluation of the patient and 
the data from the video EEG most likely fit the picture of a 
functional movement disorder rather than an acquired chorea 
syndrome which had previously been the leading diagnosis. Pt was 
offered inpatient psychiatric consultation for functional 
movement disorder. However, as this would have meant another 
night in the hospital and she felt safe going home she elected 
to be discharged and follow up with her established outpatient 
psychiatric team instead.  
 
CHRONIC ISSUES
===============
#Hormonal therapy
-continued home estradiol, spironolactone

#Allergies/Asthma:
Continued home medications

#OCD
#Anxiety
#Depression, 
Continued home propranolol, sertraline

TRANSITIONAL ISSUES
====================
1. Will need follow up for low B12 level of 176. Patient is a 
vegetarian and this was felt to be the most likely cause. Given 
1000mcg IM injection while in the hospital. 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Estradiol 6 mg PO DAILY 
2. Spironolactone 50 mg PO BID 
3. Albuterol Inhaler 2 PUFF IH Q6H:PRN wheezing 
4. Fluticasone Propionate 110mcg 2 PUFF IH BID 
5. Sertraline 300 mg PO DAILY 
6. Propranolol Dose is Unknown  PO Frequency is Unknown 

 
Discharge Medications:
1.  Propranolol 10 mg PO BID  
2.  Albuterol Inhaler 2 PUFF IH Q6H:PRN wheezing  
3.  Estradiol 6 mg PO DAILY  
4.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
5.  Sertraline 300 mg PO DAILY  
6.  Spironolactone 50 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
#Functional Movement Disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  
It was a pleasure caring for you at ___.  

WHY WAS I IN THE HOSPITAL?  
- You were admitted to the hospital to evaluate your episode of 
involuntary movements. 

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- We tested your blood for a number of things that could case 
movements like you are experiencing.
- We found that your Vitamin B12 level was low and we gave you 
an injection to raise the level back up. Please follow up with 
your primary care physician to address this.
- We had the neurology specialists come evaluate you. They 
recommended performing a study to look at your brain waves 
called an EEG. 
- We performed a video EEG to look at your brain waves. This 
test did not show any evidence of "epileptiform" activity. 
Please follow this test up with your Psychiatry team as 
discussed. 

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Continue to take all your medicines as prescribed.
- Follow up with your primary care physician regarding your 
___ B12 levels
- Follow up with your Psychiatry team regarding your involuntary 
movements  

We wish you the best!  

Sincerely,  
Your ___ Team  

 
Followup Instructions:
___